.SubCkt LLL153C70G474ME17 _net1 _net2
.param K01=4.6027e-07
.param M01=1.0638e+08
.param L02=2.8931e-11
.param M03=4.2358e-03
.param K04=1.4422e-05
.param M04=2.7590e+02
.param K05=2.5817e-05
.param M05=2.2426e+01
.param K06=2.3517e-05
.param M06=4.4745e+00
.param K07=2.8911e-05
.param M07=5.5050e-01
.param K08=3.4467e-05
.param M08=5.0206e-02
.param K09=2.7902e-05
.param M09=1.1591e-02
.param L10=1.8031e-11
.param M10=4.4938e+00
.param L11=5.2842e-12
.param M11=3.8735e-02
.param L12=4.3436e-11
.param M12=3.1191e-02
.param K13=1.0209e-06
.param L13=1.1743e-11
.param M13=8.8574e-03
.param K14=3.5740e-07
.param L14=1.2600e-11
.param M14=1.3195e-02
.param K15=2.7000e-11
.param L15=1.0000e-11
.param M15=7.0000e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt LLL153C70E105ME21 _net1 _net2
.param K01=8.3559e-07
.param M01=5.0000e+07
.param L02=5.0798e-11
.param M03=3.6545e-03
.param K04=2.1899e-05
.param M04=2.4226e+02
.param K05=5.7538e-05
.param M05=1.7651e+01
.param K06=3.7032e-05
.param M06=4.7409e+00
.param K07=4.1603e-05
.param M07=6.1232e-01
.param K08=4.3365e-05
.param M08=7.5830e-02
.param K09=4.2797e-05
.param M09=9.8040e-03
.param L10=1.0838e-11
.param M10=5.2229e-02
.param L11=6.7702e-11
.param M11=2.2652e-02
.param K12=2.7253e-06
.param L12=1.0191e-11
.param M12=6.2876e-03
.param K13=1.1244e-06
.param L13=1.0334e-11
.param M13=8.7446e-03
.param K14=5.2129e-11
.param L14=4.5115e-12
.param M14=2.1365e-01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt LLL152D80E105ME24 _net1 _net2
.param K01=8.7025e-07
.param M01=5.0000e+07
.param L02=4.7617e-11
.param M03=5.0365e-03
.param K04=3.1679e-05
.param M04=1.6747e+02
.param K05=4.9734e-05
.param M05=1.1522e+01
.param K06=5.8226e-05
.param M06=9.9761e-01
.param K07=6.9526e-05
.param M07=8.1253e-02
.param K08=4.4888e-05
.param M08=1.2667e-02
.param K09=5.0143e-05
.param M09=7.2286e-04
.param L10=6.3094e-12
.param M10=3.1199e-01
.param L11=1.0948e-11
.param M11=6.1177e-02
.param L12=4.5994e-11
.param M12=2.2794e-02
.param K13=1.1880e-06
.param L13=1.2879e-11
.param M13=4.1029e-03
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net2 'K13'
L13 _net1213 _net2 'L13'
R13 _net1213 _net2 'M13'
.ends 

.SubCkt LLL152R60G105ME24 _net1 _net2
.param K01=8.7025e-07
.param M01=5.0000e+07
.param L02=4.7617e-11
.param M03=5.0365e-03
.param K04=3.1679e-05
.param M04=1.6747e+02
.param K05=4.9734e-05
.param M05=1.1522e+01
.param K06=5.8226e-05
.param M06=9.9761e-01
.param K07=6.9526e-05
.param M07=8.1253e-02
.param K08=4.4888e-05
.param M08=1.2667e-02
.param K09=5.0143e-05
.param M09=7.2286e-04
.param L10=6.3094e-12
.param M10=3.1199e-01
.param L11=1.0948e-11
.param M11=6.1177e-02
.param L12=4.5994e-11
.param M12=2.2794e-02
.param K13=1.1880e-06
.param L13=1.2879e-11
.param M13=4.1029e-03
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net2 'K13'
L13 _net1213 _net2 'L13'
R13 _net1213 _net2 'M13'
.ends 

.SubCkt LLL153C80G105ME21 _net1 _net2
.param K01=8.4407e-07
.param M01=5.0000e+07
.param L02=4.3863e-11
.param M03=3.4413e-03
.param K04=3.1484e-05
.param M04=5.6236e+01
.param K05=3.5359e-05
.param M05=5.8595e+00
.param K06=3.5223e-05
.param M06=7.0438e-01
.param K07=3.7930e-05
.param M07=6.6302e-02
.param K08=5.0890e-05
.param M08=6.7740e-03
.param L09=8.7463e-12
.param M09=4.6711e-01
.param L10=8.4346e-12
.param M10=4.2008e-02
.param L11=5.3702e-11
.param M11=2.2312e-02
.param K12=1.8898e-06
.param L12=1.3291e-11
.param M12=7.0567e-03
.param K13=7.8697e-07
.param L13=1.2793e-11
.param M13=8.9138e-03
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net2 'K13'
L13 _net1213 _net2 'L13'
R13 _net1213 _net2 'M13'
.ends 

.SubCkt LLL153C70E474ME17 _net1 _net2
.param K01=4.6027e-07
.param M01=1.0638e+08
.param L02=2.8931e-11
.param M03=4.2358e-03
.param K04=1.4422e-05
.param M04=2.7590e+02
.param K05=2.5817e-05
.param M05=2.2426e+01
.param K06=2.3517e-05
.param M06=4.4745e+00
.param K07=2.8911e-05
.param M07=5.5050e-01
.param K08=3.4467e-05
.param M08=5.0206e-02
.param K09=2.7902e-05
.param M09=1.1591e-02
.param L10=1.8031e-11
.param M10=4.4938e+00
.param L11=5.2842e-12
.param M11=3.8735e-02
.param L12=4.3436e-11
.param M12=3.1191e-02
.param K13=1.0209e-06
.param L13=1.1743e-11
.param M13=8.8574e-03
.param K14=3.5740e-07
.param L14=1.2600e-11
.param M14=1.3195e-02
.param K15=2.7000e-11
.param L15=1.0000e-11
.param M15=7.0000e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt LLL153C80G474ME17 _net1 _net2
.param K01=4.6027e-07
.param M01=1.0638e+08
.param L02=2.8931e-11
.param M03=4.2358e-03
.param K04=1.4422e-05
.param M04=2.7590e+02
.param K05=2.5817e-05
.param M05=2.2426e+01
.param K06=2.3517e-05
.param M06=4.4745e+00
.param K07=2.8911e-05
.param M07=5.5050e-01
.param K08=3.4467e-05
.param M08=5.0206e-02
.param K09=2.7902e-05
.param M09=1.1591e-02
.param L10=1.8031e-11
.param M10=4.4938e+00
.param L11=5.2842e-12
.param M11=3.8735e-02
.param L12=4.3436e-11
.param M12=3.1191e-02
.param K13=1.0209e-06
.param L13=1.1743e-11
.param M13=8.8574e-03
.param K14=3.5740e-07
.param L14=1.2600e-11
.param M14=1.3195e-02
.param K15=2.7000e-11
.param L15=1.0000e-11
.param M15=7.0000e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt LLL153R60G474ME17 _net1 _net2
.param K01=4.6027e-07
.param M01=1.0638e+08
.param L02=2.8931e-11
.param M03=4.2358e-03
.param K04=1.4422e-05
.param M04=2.7590e+02
.param K05=2.5817e-05
.param M05=2.2426e+01
.param K06=2.3517e-05
.param M06=4.4745e+00
.param K07=2.8911e-05
.param M07=5.5050e-01
.param K08=3.4467e-05
.param M08=5.0206e-02
.param K09=2.7902e-05
.param M09=1.1591e-02
.param L10=1.8031e-11
.param M10=4.4938e+00
.param L11=5.2842e-12
.param M11=3.8735e-02
.param L12=4.3436e-11
.param M12=3.1191e-02
.param K13=1.0209e-06
.param L13=1.1743e-11
.param M13=8.8574e-03
.param K14=3.5740e-07
.param L14=1.2600e-11
.param M14=1.3195e-02
.param K15=2.7000e-11
.param L15=1.0000e-11
.param M15=7.0000e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt LLL152D70J105ME01 _net1 _net2
.param K01=8.8870e-07
.param M01=5.0000e+07
.param L02=4.0200e-11
.param M03=4.2812e-03
.param K04=8.6945e-05
.param M04=9.0673e+00
.param K05=8.4425e-05
.param M05=1.4814e+00
.param K06=8.1494e-05
.param M06=2.2795e-01
.param K07=6.2518e-05
.param M07=3.5797e-02
.param K08=4.9644e-05
.param M08=5.3459e-03
.param L09=8.7803e-12
.param M09=5.9632e-01
.param L10=8.0544e-12
.param M10=3.8161e-02
.param L11=2.9191e-11
.param M11=2.8501e-02
.param K12=1.6281e-06
.param L12=1.1492e-11
.param M12=5.4526e-03
.param K13=2.0065e-07
.param L13=2.4323e-11
.param M13=9.5623e-03
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net2 'K13'
L13 _net1213 _net2 'L13'
R13 _net1213 _net2 'M13'
.ends 

.SubCkt LLL152D70G105ME01 _net1 _net2
.param K01=8.8314e-07
.param M01=5.0000e+07
.param L02=4.1676e-11
.param M03=4.2554e-03
.param K04=6.7686e-05
.param M04=3.7849e+01
.param K05=7.7274e-05
.param M05=4.4577e+00
.param K06=8.1284e-05
.param M06=6.4258e-01
.param K07=7.9400e-05
.param M07=9.1349e-02
.param K08=5.8068e-05
.param M08=1.7724e-02
.param K09=5.2792e-05
.param M09=3.2429e-03
.param L10=4.0833e-12
.param M10=2.0337e-01
.param L11=1.1001e-11
.param M11=4.2001e-02
.param L12=3.7956e-11
.param M12=2.0941e-02
.param K13=1.6183e-06
.param L13=1.1909e-11
.param M13=5.8296e-03
.param K14=4.6452e-07
.param L14=1.2985e-11
.param M14=6.1296e-03
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt LLL15SD70E105ME01 _net1 _net2
.param K01=8.5025e-07
.param M01=5.0000e+07
.param L02=4.7663e-11
.param M03=4.7852e-03
.param K04=7.7331e-05
.param M04=2.4891e+01
.param K05=8.5566e-05
.param M05=5.4274e+00
.param K06=8.2367e-05
.param M06=1.0650e+00
.param K07=8.1709e-05
.param M07=1.9448e-01
.param K08=6.2428e-05
.param M08=3.8623e-02
.param K09=4.2287e-05
.param M09=7.4678e-03
.param L10=5.2249e-12
.param M10=1.8326e-01
.param L11=9.6952e-12
.param M11=3.7710e-02
.param L12=3.2753e-11
.param M12=1.6613e-02
.param L13=1.6062e-11
.param M13=5.9620e-03
.param K14=2.0195e-06
.param L14=7.9509e-12
.param M14=4.6293e-03
.param K15=1.4913e-06
.param L15=3.6439e-12
.param M15=3.2193e-03
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt LLL15SD70G105ME01 _net1 _net2
.param K01=8.5025e-07
.param M01=5.0000e+07
.param L02=4.7663e-11
.param M03=4.7852e-03
.param K04=7.7331e-05
.param M04=2.4891e+01
.param K05=8.5566e-05
.param M05=5.4274e+00
.param K06=8.2367e-05
.param M06=1.0650e+00
.param K07=8.1709e-05
.param M07=1.9448e-01
.param K08=6.2428e-05
.param M08=3.8623e-02
.param K09=4.2287e-05
.param M09=7.4678e-03
.param L10=5.2249e-12
.param M10=1.8326e-01
.param L11=9.6952e-12
.param M11=3.7710e-02
.param L12=3.2753e-11
.param M12=1.6613e-02
.param L13=1.6062e-11
.param M13=5.9620e-03
.param K14=2.0195e-06
.param L14=7.9509e-12
.param M14=4.6293e-03
.param K15=1.4913e-06
.param L15=3.6439e-12
.param M15=3.2193e-03
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt LLL152D70E225ME01 _net1 _net2
.param K01=1.7573e-06
.param M01=2.2727e+07
.param L02=4.2801e-11
.param M03=3.3309e-03
.param K04=9.7565e-05
.param M04=1.9300e+01
.param K05=1.4076e-04
.param M05=2.1204e+00
.param K06=1.7274e-04
.param M06=4.4493e-01
.param K07=1.4289e-04
.param M07=1.2568e-01
.param K08=1.0899e-04
.param M08=2.7186e-02
.param K09=6.4712e-05
.param M09=5.7606e-03
.param L10=5.9900e-12
.param M10=6.3070e-02
.param L11=9.1814e-12
.param M11=2.8317e-02
.param L12=2.3438e-11
.param M12=1.1852e-02
.param L13=4.1971e-11
.param M13=1.0240e-02
.param K14=3.1064e-06
.param L14=1.4683e-11
.param M14=4.9751e-03
.param K15=2.1058e-06
.param L15=7.3474e-12
.param M15=4.1446e-03
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt LLL152D70G225ME01 _net1 _net2
.param K01=1.7573e-06
.param M01=2.2727e+07
.param L02=4.2801e-11
.param M03=3.3309e-03
.param K04=9.7565e-05
.param M04=1.9300e+01
.param K05=1.4076e-04
.param M05=2.1204e+00
.param K06=1.7274e-04
.param M06=4.4493e-01
.param K07=1.4289e-04
.param M07=1.2568e-01
.param K08=1.0899e-04
.param M08=2.7186e-02
.param K09=6.4712e-05
.param M09=5.7606e-03
.param L10=5.9900e-12
.param M10=6.3070e-02
.param L11=9.1814e-12
.param M11=2.8317e-02
.param L12=2.3438e-11
.param M12=1.1852e-02
.param L13=4.1971e-11
.param M13=1.0240e-02
.param K14=3.1064e-06
.param L14=1.4683e-11
.param M14=4.9751e-03
.param K15=2.1058e-06
.param L15=7.3474e-12
.param M15=4.1446e-03
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 
